US05814580
To 850 ml of ethanol were added 188 g of aminoguanidine hydrochloride and 170 g of 2,4-pentadione and the mixture was heated with stirring for 3 hrs. under reflux. The precipitated crystals were filtered, sufficiently washed with ethanol and dried to obtain 1-amidino-3,5-dimethylpyrazole hydrochloride of 210 g. Next, 60 g of potassium hydroxide was dissolved in water of 120 g and 1-amidino-3,5-dimethylpyrazole hydrochloride of 61.1 g was added thereto withcooling with water and stirred further for 1 hr. Chloroform of 200 ml was added to the solution for extraction. A chloroform layer was separated, washed with water and dried with anhydrous sodium sulfate, thereafter, chloroform was removed to obtain 1-amidino-3,5-dimethylpyrazole of 46.0 g.

reactant | aminoguanidine hydrochloride | 188 g | C(=N)(N)NN.Cl
reactant | 2,4-pentadione | 170 g | CC(=O)CC(=O)C | C5H8O2
solvent | ethanol | 850 ml | C(C)O | C2H6O
product | 1-amidino-3,5-dimethylpyrazole hydrochloride | Cl.C(N)(=N)N1N=C(C=C1C)C | InChI=1S/C6H10N4.ClH/c1-4-3-5(2)10(9-4)6(7)8;/h3H,1-2H3,(H3,7,8);1H
